US06166006
Under argon atmosphere, a solution of N-methyl-N-methoxy-5-bromopyridine-3-carboxamide (3.70 g), 4-methyl-phenyl borate (2.26 g) and potassium carbonate (4.17 g) in toluene-ethanol-water (100-10-10 ml) was stirred at room temperature for 1 hour. To the reaction mixture was added tetrakistriphenylphosphinepalladium (0.52 g), and the mixture was refluxed for 16 hours and cooled to room temperature. The organic layer was washed with saturated sodium chloride solution, dried with magnesium sulfate and concentrated under reduced pressure. The residue was separated and purified with column chromatography (ethyl acetate/hexane=1:2→1:1) to give N-methyl-N-methoxy-5-(4-methylphenyl)pyridine-3-carboxamide (3.97 g) as yellow oil.

reactant | N-methyl-N-methoxy-5-bromopyridine-3-carboxamide | 3.70 g | CN(C(=O)C=1C=NC=C(C1)Br)OC | C8H9BrN2O2
reactant | 4-methyl-phenyl borate | 2.26 g | B(OC1=CC=C(C=C1)C)([O-])[O-]
reactant | potassium carbonate | 4.17 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene-ethanol water | C=1(C(=CC=CC1)CCO)C.O
catalyst | tetrakistriphenylphosphinepalladium | 0.52 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-methyl-N-methoxy-5-(4-methylphenyl)pyridine-3-carboxamide | 3.97 g | CN(C(=O)C=1C=NC=C(C1)C1=CC=C(C=C1)C)OC | C15H16N2O2
